US08497368B2
5-Bromo-N*3*-(7-fluoro-quinolin-6-ylmethyl)-pyrazine-2,3-diamine (72.1)
A mixture of N-(7-fluoro-quinolin-6-yl)-methylamine (1.69 g, 9.63 mmol), 3,5-dibromopyrazin-2-amine (2.43 g, 9.63 mmol) and DIPEA (2.96 g, 22.90 mmol) was heated in a microwave to 120° C. for 10 hour. The reaction was diluted with DCM and water. The organic layer was washed with NH4Cl (aq.), dried over Na2SO4, filtered and concentrated in vacuo. The crude product was purified by silica gel chromatography (DCM:MeOH) to give the title compound as a yellow solid (2.60 g, 69%). LCMS (method E): [MH]+=348/350, tR=5.21 min.

reactant | N-(7-fluoro-quinolin-6-yl)-methylamine | 9.63 mmol, 1.69 g | FC1=C(C=C2C=CC=NC2=C1)NC | C10H9FN2
reactant | 3,5-dibromopyrazin-2-amine | 9.63 mmol, 2.43 g | BrC=1C(=NC=C(N1)Br)N | C4H3Br2N3
reactant | DIPEA | 22.90 mmol, 2.96 g | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 5-Bromo-N*3*-(7-fluoro-quinolin-6-ylmethyl)-pyrazine-2,3-diamine | 2.60 g, 69% | BrC=1N=C(C(=NC1)N)NCC=1C=C2C=CC=NC2=CC1F | C14H11BrFN5
